US08431569B2
Step 1. 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide
A mixture of 7-(2-aminopyrimidin-5-yl)-8-bromo-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide (200 mg, 0.38 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (146 mg, 0.58 mmol), PdCl2(dppf) (5.6 mg, 0.0077 mmol), and potassium acetate (113 mg, 1.15 mmol) in DME (7.7 mL) was heated to 100° C. for 6 h, cooled to room temperature, and purified by prep-HPLC to afford the title compound. LRMS (APCI) calc'd for (C27H29NF3N7O3) [M+H]+, 568.2. found 568.2.

reactant | 7-(2-aminopyrimidin-5-yl)-8-bromo-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide | 0.38 mmol, 200 mg | NC1=NC=C(C=N1)C=1C(=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N)Br | C21H17BrF3N7O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.58 mmol, 146 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.15 mmol, 113 mg | C(C)(=O)[O-].[K+]
solvent | DME | 7.7 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.0077 mmol, 5.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | NC1=NC=C(C=N1)C=1C(=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N)B3OC(C(O3)(C)C)(C)C | C27H29BF3N7O3
